US05969145
A solution of 3.25 g (9.02 mmol) of the bissilylated compound 6-[(tert-butyldimethyl-silyl)oxy]-hexanoic acid silyl ester in 130 ml of methanol and 44 ml of ThF is mixed with a solution of 4.4 g (31.8 mmol, 3.5 equivalents) of K2CO3 in 44 ml of H2O, and it is stirred for 1 hour at room temperature. Then, the volume of reaction solution is reduced to one-fourth in a vacuum. It is diluted with 130 ml of saturated NaCl solution and set at pH 4-5 with 1 M KHSO4 solution. It is extracted with diethyl ether. The combined organic phases are dried on MgSO4, and the solvent is distilled off in a rotary evaporator. 2.01 g (8.17 mmol) of 6-[(tert-butyldimethylsilyl)oxy]-hexanoic acid, corresponding to a yield of 90%, is obtained.

reactant | 6-[(tert-butyldimethyl-silyl)oxy]-hexanoic acid silyl ester | [SiH3]OC(CCCCCO[Si](C)(C)C(C)(C)C)=O | C12H28O3Si2
reactant | K2CO3 | 31.8 mmol, 4.4 g, 3.5 equivalents | C(=O)([O-])[O-].[K+].[K+]
reactant | KHSO4 | 1 M | OS(=O)(=O)[O-].[K+]
solvent | methanol | 130 ml | CO | CH4O
solvent | H2O | 44 ml | O | H2O
solvent | NaCl | 130 ml | [Na+].[Cl-]
product | 6-[(tert-butyldimethylsilyl)oxy]-hexanoic acid | 8.17 mmol, 2.01 g, yield of 90% | [Si](C)(C)(C(C)(C)C)OCCCCCC(=O)O | C12H26O3Si
